US06262130B1
Potassium Dodecyl Phosphate Composition with Less than Stoichiometric K/P Ratio
A laboratory batch of dodecyl phosphate was prepared by a process similar to Example 1, with a first acid value of 209.6 mg KOH/g sample and weight composition of 6.4% phosphoric acid, 72.3% mono(dodecyl) phosphate, 13.0% di(dodecyl) phosphate, 7.7% nonionics and 0.6% water. The equipment described in Example 4 was charged with 200.9g deionized water and 118.3g of the melted, acid dodecyl phosphate was poured into the stirred liquid to give a white, creamy, easily stirred composition. To this 35° C. lotion was added 59.9g potassium hydroxide solution (44.5 wt. %) to produce a 36% salt composition at 47° C. with a theoretical potassium/phosphorus molar ratio of 0.84. An additional l50.1g of the acid dodecyl phosphate was blended in followed by 66.4g of the 44.5% potassium hydroxide solution. The temperature reached a maximum of 52° within minutes, then began to drop. The creamy, easily stirred, uniform lotion was heated to 75° C. to try to melt it, but when no significant change was observed, it was allowed to cool to room temperature producing a stable, foamy, easily stirred, whipped cream like substance which was not further characterized. The calculated solids for the salt composition was 51% and potassium/phosphorus molar ratio was 0.78.

reactant | dodecyl phosphate | P(=O)(OCCCCCCCCCCCC)([O-])[O-]
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium phosphorus | [K].[P]
product | Potassium Dodecyl Phosphate | P(=O)(OCCCCCCCCCCCC)([O-])[O-].[K+].[K+] | InChI=1S/C12H27O4P.2K/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;;/h2-12H2,1H3,(H2,13,14,15);;/q;2*+1/p-2
